US09290451B2
g) [5-Methyl-6-(piperidine-1-sulfonyl)-pyridin-2-yl]-piperidin-1-yl-methanone
The title compound was synthesized in analogy to Example 1, using 5-methyl-6-(piperidine-1-sulfonyl)-pyridine-2-carboxylic acid and piperidine (CAN 110-89-4) as starting materials, MS (EI): 352.2 [M+H]+.

reactant | 5-methyl-6-(piperidine-1-sulfonyl)-pyridine-2-carboxylic acid | CC=1C=CC(=NC1S(=O)(=O)N1CCCCC1)C(=O)O | C12H16N2O4S
reactant | piperidine | N1CCCCC1 | C5H11N
product | [5-Methyl-6-(piperidine-1-sulfonyl)-pyridin-2-yl]-piperidin-1-yl-methanone | CC=1C=CC(=NC1S(=O)(=O)N1CCCCC1)C(=O)N1CCCCC1 | C17H25N3O3S
